* CL10A475KP8NNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Sep-06-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 4.7uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0603(unit:inch), 1608(unit:mm)
*     Length = 1.60+/-0.10mm
*     Width = 0.80+/-0.10mm
*     Thickness = 0.80+/-0.10mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 0V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL10A475KP8NNN_Precise_DC0V_25degC 1 2
C1 1 3 3.73627E-6
C2 3 4 5.83923E-5
C3 4 5 1.05841E-4
C4 5 6 1.06435E-4
C5 6 7 1.03447E-4
C6 7 8 1.00402E-4
C7 8 9 7.44195E-5
C8 9 10 1.0E-10
C16 17 18 0.00135
C17 18 19 0.00249
C18 19 20 0.00530
C19 20 21 6.58730E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 2.25910E-5
C24 25 26 3.69433E-6
C25 26 27 1.42066E-6
C26 27 28 1.62107E-11
C27 28 2 2.53303E-4
L10 11 12 1.09024E-10
L11 12 13 1.80529E-10
L12 13 14 3.89094E-11
L13 14 15 1.87918E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 9.56111E-12
L17 18 19 1.68556E-12
L18 19 20 3.09286E-13
L19 20 21 1.58212E-12
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 2.80554E-11
L24 25 26 7.96599E-11
L25 26 27 6.44080E-11
L26 27 28 4.92089E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 83.26613
R3 4 5 4.27277
R4 5 6 0.73752
R5 6 7 0.14549
R6 7 8 0.02381
R7 8 9 0.00532
R8 9 10 1.0E-6
R9 10 11 0.00499
R11 12 13 0.03832
R12 13 14 0.07805
R13 14 15 0.13544
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 1.35983E-4
R17 18 19 1.06221E-4
R18 19 20 1.47891E-4
R19 20 21 1.32959E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00200
R24 25 26 0.00531
R25 26 27 0.00510
R26 27 28 2.66044
R27 28 2 1.0E-6
.ENDS CL10A475KP8NNN_Precise_DC0V_25degC